US07482429B2
Alloc-Phe-Thr-OtBu.
H-Thr-OtBu-HCl (3.1 g, 15 mmol, 1.3 equiv) was dissolved in CH2Cl2 (30 mL) and DIEA (2.9 mL, 17 mmol, 1.5 equiv) was added and the mixture allowed to stir for 30 min. Alloc-Phe-OH (2.8 g, 11 mmol, 1 equiv) and EDC (2.8 g, 15 mmol, 1.3 equiv) in CH2Cl2 (35 mL) was then added and the reaction was stirred for 18 h. The organic reaction mixture was washed with H2O (3×25 mL), dried (MgSO4) and concentrated in vacuo. The resultant oil (4.12 g) was purified by flash chromatography [CHCl3-MeOH—HOAc (9:1:0.2)] to give the title product (3.25 g, 8 mmol, 71% yield), which was characterized by analytical HPLC (tR 20.9 min, >98% purity; Condition C); ESMS, calcd for C21H30N2O6, 406.2. Found: m/z 408.0 [M+H]+; 1H-NMR (200 MHz, CDCl3): 7.1-7.3 (5H, m, Ar); 6.89 (1H, d, J=8.8 Hz, NH); 5.7-5.9 (1H, m, CH allyl); 5.56 (1H, d, J=8.0 Hz, OH); 5.2-5.3 (2H, m, CH2 g-allyl); 4.52 (2H, d, J=5.4 Hz, CH2 a-allyl); 4.45 (1H, dd, J=8.4 Hz, 2.8 Hz, a-CH Thr); 4.22 (1H, dq, J=6.2 Hz, J=3.0 Hz, b-CH Thr); 3.0-3.2 (2H, m, b-CH2 Phe); 1.47 (9H, s, tBu); 1.15 (3H, d, J=6.6 Hz, g-CH3 Thr); 13C-NMR (50 MHz, CDCl3): 172.2 (CO), 169.5 (CO); 156.0 (CO); 136.1 (Cq, Ar); 132.5 (CH, allyl); 129.3 (CH, Ar); 128.5 (CH, Ar); 126.9 (CH, Ar); 117.7 (CH2, allyl); 82.7 (Cq, tBu); 68.5 (b-CH Thr); 65.9 (CH2, allyl); 58.0 (a-CH Thr); 56.2 (a-CH Phe); 38.3 (b-CH2 Phe); 28.0 (CH3, tBu); 20.8 (g-CH3 Thr).

reactant | H-Thr-OtBu-HCl | 15 mmol, 3.1 g, 1.3 equiv | N[C@@H]([C@H](O)C)C(=O)OC(C)(C)C.Cl
reactant | DIEA | 17 mmol, 2.9 mL, 1.5 equiv | CCN(C(C)C)C(C)C | C8H19N
reactant | Alloc-Phe-OH | 11 mmol, 2.8 g, 1 equiv | N([C@@H](CC1=CC=CC=C1)C(=O)O)C(=O)OCC=C | C13H15NO4
reactant | EDC | 15 mmol, 2.8 g, 1.3 equiv
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 35 mL | C(Cl)Cl | CH2Cl2
product | Alloc-Phe-Thr-OtBu | 8 mmol, 3.25 g, 71% yield | N([C@@H](CC1=CC=CC=C1)C(=O)N[C@@H]([C@H](O)C)C(=O)OC(C)(C)C)C(=O)OCC=C | C21H30N2O6
